US08071600B2
A THF solution (8 ml) of 5-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-(tert-butyl-dimethylsilanyloxymethyl)-1-methyl-1H-pyrazole (0.75 g, 1.5 mmol) was cooled on ice and a 1M THF solution of tetrabutyl ammonium fluoride (1.7 ml) was added thereto. The mixture was stirred at room temperature for 16 hours. Ethyl acetate was added to the reaction solution, which was washed with water. The organic layer was dried over anhydrous magnesium sulfate and thereafter concentrated under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane: methanol=1:0→30:1→15:1). The purified product was concentrated under reduced pressure and the residue was recrystallized from a solvent mixture of ethyl acetate and diisopropyl ether to obtain 5-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-propoxy]-3-hydroxymethyl-1-methyl-1H-pyrazole (0.46 g, 79% yield) as white powder.

reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | 5-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-(tert-butyl-dimethylsilanyloxymethyl)-1-methyl-1H-pyrazole | 1.5 mmol, 0.75 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC(=NN2C)CO[Si](C)(C)C(C)(C)C | C26H40N4O2SSi
reactant | THF | 1M | C1CCOC1 | C4H8O
reactant | tetrabutyl ammonium fluoride | 1.7 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-propoxy]-3-hydroxymethyl-1-methyl-1H-pyrazole | 0.46 g, 79% yield | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC(=NN2C)CO | C20H26N4O2S
